US07855213B2
2-(3-Bromobenzoyl)-4-chlorobenzonitrile (Scheme #18, R)
2-Bromo-4-chlorobenzonitrile (1.00 g, 4.62 mmol) was added to isopropylmagnesium chloride×lithium chloride complex (1.05 M in tetrahydrofuran, 4.62 mL, 1.05 mmol) at −15° C. under argon atmosphere. After stirring for 1.5 h 3-bromobenzoyl chloride and CuCN×2LiCl complex solution (1M in tetrahydrofuran, 0.092 mL, 0.0924 mmol) were added and the temperature was raised to 0° C. After 2 h stirring the reaction was quenched with saturated aqueous ammonium chloride (10 mL) and diluted with water. The product was extracted with ethyl acetate and the organic phase was washed with water and concentrated. The residue was purified with flash chromatography using dichloromethane in heptane (0% to 100%) affording 1.03 g (70% yield) of the title compound. 1H NMR (DMSO-d6) δ 8.12 (d, J=8.28 Hz, 1 H), 8.00-7.92 (m, 3 H), 7.88 (d, J=2.01 Hz, 1 H), 7.77 (d, J=8.03 Hz, 1 H), 7.60-7.53 (m, 1 H); MS (ES) m/z 320, 322 [M+H]+.

reactant | 2-Bromo-4-chlorobenzonitrile | 4.62 mmol, 1.00 g | BrC1=C(C#N)C=CC(=C1)Cl | C7H3BrClN
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | lithium chloride | 1.05 mmol, 1.05 M, 4.62 mL | [Cl-].[Li+]
reactant | 3-bromobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
reactant | CuCN | C(#N)[Cu]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-Bromobenzoyl)-4-chlorobenzonitrile | 1.03 g, 70% yield | BrC=1C=C(C(=O)C2=C(C#N)C=CC(=C2)Cl)C=CC1 | C14H7BrClNO
